US04828758
B. 4-(4-Hydroxypiperidyl)-4'-nitrostilbene
A one liter three necked flask fitted with a dropping funnel, mechanical stirrer and condenser is charged with 34.35 g of 4-nitrophenylacetic acid. Piperidine (16.2 g) is added dropwise over a period of 30 minutes. At the end of the addition, 38.4 g of 4-(4-hydroxypiperidyl)benzaldehyde is added. The reaction mixture is heated at 100° C. for three hours, and at 130° C. for three hours. After cooling, the semi-solid product mass is ground in ethanol in a blender, then filtered, washed, and vacuum dried. The crude product is recrystallized from chlorobenzene, m.p. 248°-250° C.

reactant | 4-nitrophenylacetic acid | 34.35 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | Piperidine | 16.2 g | N1CCCCC1 | C5H11N
reactant | 4-(4-hydroxypiperidyl)benzaldehyde | 38.4 g | OC1CCN(CC1)C1=CC=C(C=O)C=C1 | C12H15NO2
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-Hydroxypiperidyl)-4'-nitrostilbene | OC1CCN(CC1)C1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C19H20N2O3
